* PEX produced on Thu Aug 27 10:04:03 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from level_shifter.ext - technology: ihp-sg13g2

.subckt level_shifter in vph vpl gd
X0 3_stage_out a_5207_4935# gd gd sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X1 gd a_5207_4935# 3_stage_out gd sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X2 a_5207_4935# 1_stage_out a_5365_4545# gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X3 3_stage_out a_5207_4935# a_6343_5165# vph sg13_hv_pmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.45u
X4 a_5207_4935# 1_stage_out vpl vpl sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X5 a_4931_4545# in gd gd sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X6 vph 4 a_6343_5165# vph sg13_hv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X7 a_6343_5165# a_5207_4935# 3_stage_out vph sg13_hv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X8 vpl in 1_stage_out vpl sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X9 4 1_stage_out gd gd sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X10 gd a_5207_4935# 3_stage_out gd sg13_hv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.45u
X11 vph 3_stage_out a_6067_5165# vph sg13_hv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X12 gd 1_stage_out 4 gd sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X13 a_5365_4545# 1_stage_out gd gd sg13_lv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X14 a_6343_5165# 4 vph vph sg13_hv_pmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.45u
X15 1_stage_out in a_4931_4545# gd sg13_lv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X16 vpl 1_stage_out a_5207_4935# vpl sg13_lv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X17 a_6067_5165# 1_stage_out 4 vph sg13_hv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X18 1_stage_out in vpl vpl sg13_lv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X19 3_stage_out a_5207_4935# gd gd sg13_hv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=0.45u
C0 1_stage_out a_5365_4545# 0.05936f
C1 vph a_6067_5165# 0.02392f
C2 a_6343_5165# 4 0.08334f
C3 1_stage_out a_4931_4545# 0.05117f
C4 3_stage_out 4 0.25994f
C5 1_stage_out in 0.53853f
C6 a_5365_4545# a_5207_4935# 0.05117f
C7 3_stage_out a_6343_5165# 0.96375f
C8 1_stage_out a_5207_4935# 1.11646f
C9 vpl 4 0.03934f
C10 in a_4931_4545# 0.05936f
C11 1_stage_out vph 0.15042f
C12 3_stage_out vpl 0.01771f
C13 4 a_6067_5165# 0.05906f
C14 vph a_5207_4935# 0.3052f
C15 3_stage_out a_6067_5165# 0.15583f
C16 1_stage_out 4 0.47974f
C17 1_stage_out 3_stage_out 0.05153f
C18 4 a_5207_4935# 0.4715f
C19 1_stage_out vpl 0.63397f
C20 a_6343_5165# a_5207_4935# 0.08779f
C21 vph 4 0.4346f
C22 a_6343_5165# vph 0.47519f
C23 3_stage_out a_5207_4935# 0.67326f
C24 in vpl 0.29476f
C25 vpl a_5207_4935# 0.30802f
C26 3_stage_out vph 0.44105f
C27 1_stage_out a_6067_5165# 0.02162f
C28 vph gd 1.47735f
C29 vpl gd 0.06616f
C30 a_5365_4545# gd 0.68419f
C31 a_4931_4545# gd 0.29449f
C32 a_6343_5165# gd 0.82751f
C33 a_6067_5165# gd 0.88792f
.ends

